US07632875B2
3,5-Dinitro-benzoic acid 2-(2-bromo-2-methyl-propionyloxy)-ethyl ester
To a solution of 3,5-dinitrobenzoyl chloride (10 g, 0.043 mol) in 80 ml anhydrous THF was added triethylamine (4.83 g, 0.048 mol) followed by anhydrous ethylene glycol (24 ml, 0.43 mol). After 1 h, the solution was quenched with 200 ml water and extracted into ethyl acetate (3×150 ml). The organics were washed with 100 ml each 10% KOH, water, 1M HCl, brine, dried over magnesium sulfate and concentrated to 8.8 g. To this material, dissolved in 50 ml anhydrous THF and cooled in an ice bath, was added triethylamine (3.83 g, 0.038 mol) and then bromoisobutyryl bromide (8.70 g, 0.038 mol). After 0.5 h, the solution was quenched with 100 ml water and extracted into ethyl acetate (3×100 ml). The organics were washed with 100 ml each 10% KOH, water, 1M HCl, brine, dried over magnesium sulfate and concentrated. Purification by column chromatography yielded 9 gm of product, 96% pure by HPLC.

reactant | 3,5-dinitrobenzoyl chloride | 0.043 mol, 10 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | triethylamine | 0.048 mol, 4.83 g | C(C)N(CC)CC | C6H15N
reactant | ethylene glycol | 0.43 mol, 24 ml | C(CO)O | C2H6O2
reactant | triethylamine | 0.038 mol, 3.83 g | C(C)N(CC)CC | C6H15N
reactant | bromoisobutyryl bromide | 0.038 mol, 8.70 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 3,5-Dinitro-benzoic acid 2-(2-bromo-2-methyl-propionyloxy)-ethyl ester | 9 gm | BrC(C(=O)OCCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)(C)C | C13H13BrN2O8
